US08058299B2
The yellow solid prepared above (463 mg, 1.75 mmol) was dissolved into methanol (25 ml) and THF (5 mL). To this solution was added 10% palladium on carbon (100 mg) and the mixture was hydrogenated at 50 psi for 2 hrs. The mixture was filtered and solvents were evaporated to give a purple residue. This material was dissolved in methylene chloride (5 mL) containing triethyl amine (0.4 mL) and the solution was added to a methylene chloride solution of 2-phenyl-5-trifluoromethyloxazole-4-carbonyl chloride which was prepared from 2-phenyl-5-trifluoromethyloxazole-4-carboxylic acid (450.7 mg, 1.753 mmol) and oxalyl chloride. The mixture was stirred at r.t for 3 hrs and solvents were evaporated. The residue was extracted with ethyl acetate and diluted hydrochloric acid and solvents were evaporated. The resulting mixture was purified through a flash column chromatography using ethyl acetate and hexanes (1:1 ratio) to give a white solid as 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid methyl ester (650 mg). 1H-NMR is consistent with the structure. LC-MS indicated a single peak (Rf=3.85 min). LRMS for C24H22F3N3O4 (m/e) calcd 473.16, obsd 474.3 (M+1).

reactant | methanol | 25 ml | CO | CH4O
reactant | 2-phenyl-5-trifluoromethyloxazole-4-carbonyl chloride | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)Cl)C(F)(F)F | C11H5ClF3NO2
reactant | 2-phenyl-5-trifluoromethyloxazole-4-carboxylic acid | 1.753 mmol, 450.7 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethyl amine | 0.4 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid methyl ester | 650 mg | COC(=O)C1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C24H22F3N3O4
